US04032652
To a solution of 3.03 g. (0.01 m.) of 5-acetyl-4-hydroxy-3-[1-(p-hydroxyphenylamino)ethylidene]-2H-pyran-2,6(3H)-dione, 1.0 g. (0.01 m.) of triethylamine in 150 ml. of tetrahydrofuran is added 0.78 g. (0.01 m.) of acetyl chloride. The resulting mixture is refluxed for two hours, cooled and filtered. The solid is recrystallized to give 3-[1-(p-acetoxyphenylamino)ethylidene]-5-acetyl-4-hydroxy-2H-pyran-2,6(3H)-dione, m.p. 199°-201° C.

reactant | 5-acetyl-4-hydroxy-3-[1-(p-hydroxyphenylamino)ethylidene]-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NC1=CC=C(C=C1)O)O | C15H13NO6
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[1-(p-acetoxyphenylamino)ethylidene]-5-acetyl-4-hydroxy-2H-pyran-2,6(3H)-dione | C(C)(=O)OC1=CC=C(C=C1)NC(C)=C1C(OC(C(=C1O)C(C)=O)=O)=O | C17H15NO7
